US07018988B2
(2S,4EZ)-N-benzyl-1-(methoxyacetyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidine-carboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, methoxyacetyl chloride, and benzylamine the title compound was obtained in 49% purity by LC/MS. MS(ESI+): m/z=426.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)O | C18H24N2O6
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | (2S,4EZ)-N-benzyl-1-(methoxyacetyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidine-carboxamide | C(C1=CC=CC=C1)NC(=O)[C@H]1N(CC(C1)=NOCC1=CC=C(C=C1)OC)C(COC)=O | C23H27N3O5
